US07687502B2
6-[2-Fluoro-6-(fluoromethyl)phenoxy]-N-(1-methyl-1H-pyrazol-3-yl)quinazolin-4-yl-amine
The compound of Example 130 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 1,2-difluoro-3-(fluoromethyl)benzene, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 1,2-difluoro-3-(fluoromethyl)benzene | FC1=C(C(=CC=C1)CF)F | C7H5F3
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | 6-[2-Fluoro-6-(fluoromethyl)phenoxy]-N-(1-methyl-1H-pyrazol-3-yl)quinazolin-4-yl-amine | FC1=C(OC=2C=C3C(=NC=NC3=CC2)NC2=NN(C=C2)C)C(=CC=C1)CF | C19H15F2N5O
